US07494992B2
(1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(phenylamino)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To (1S,2R,4aR,8R,8aR)-8a-hydroxy-2-[(1H-imidazol-1-ylcarbonyl)oxy]-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 142, 510 mg, 0.83 mmol) in anhydrous pyridine (10 ml) was added aniline hydrochloride (500 mg, 3.8 mmol) and 4-dimethylaminopyridine (240 mg, 2.0 mmol). The reaction mixture was stirred at room temperature under nitrogen for 4 days before pouring into dichloromethane (100 ml) and washing with saturated aqueous citric acid solution (2×50 ml). The organic fraction was dried (Na2SO4) and concentrated in vacuo to give a yellowish solid (490 mg, 93%). The crude product was purified by flash column chromatography on silica gel eluting with a hexane:ethyl acetate gradient (1:1 to 1:5). The pure fractions were collected and concentrated in vacuo to give (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-2-{[(phenylamino)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (440 mg, 83%). To a solution of the (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-2-{[(phenylamino)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (100 mg, 0.157 mmol) in ethyl acetate (30 ml) was added platinum(IV) oxide (10 mg, 0.044 mmol) and the resulting mixture was hydrogenated at room temperature under 60 psi hydrogen for 10 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The crude product, was purified by flash column chromatography on silica gel eluting with hexane ethyl acetate (1:1). The product was further purified to give the title product (19 mg, 19%).

reactant | (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-2-{[(phenylamino)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.157 mmol, 100 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(=O)NC3=CC=CC=C3)O | C34H40ClN3O7
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide | 0.044 mmol, 10 mg | [Pt](=O)=O
product | (1S,2R,4aS,5S,8R,8aR)-8a-hydroxy-3,8-dimethyl-5-(1-methylethyl)-2-{[(phenylamino)carbonyl]oxy}-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 19 mg, 19% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@@H]2[C@@H](CC[C@H]([C@]32O)C)C(C)C)C)OC(=O)NC3=CC=CC=C3)O | C34H42ClN3O7
